US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(pyridin-2-yl)-N-(2-(trifluoromethyl)pyridin-4-yl)cyclopropanecarboxamide
To 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (45 mg, 0.2 mmol) in pyridine (2 mL) was added N-(2-(trifluoromethyl)pyridin-4-yl)pyridin-2-amine (48 mg, 0.2 mmol) and the reaction mixture was stirred at 115° C. for 15 hours. The solvent was evaporated to dryness and the residue redissolved in DMF, filtered and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product. ESI-MS m/z calc. 427.4. Found 428.1 (M+1)+. Retention time 2.91 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.2 mmol, 45 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | N-(2-(trifluoromethyl)pyridin-4-yl)pyridin-2-amine | 0.2 mmol, 48 mg | FC(C1=NC=CC(=C1)NC1=NC=CC=C1)(F)F | C11H8F3N3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(pyridin-2-yl)-N-(2-(trifluoromethyl)pyridin-4-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)N(C2=CC(=NC=C2)C(F)(F)F)C2=NC=CC=C2 | C22H16F3N3O3
